* Op-Amp Adder Circuit Simulation
* Inputs: V1 (1V DC) and V2 (2V DC)
* Output: Vout = -( (Rf/R1)*V1 + (Rf/R2)*V2 )

* 1. 定义电源和输入信号
V1 in1 0 DC 1       * Input 1: 1V DC
V2 in2 0 DC 2       * Input 2: 2V DC
Vcc vcc 0 DC 15     * Op-amp positive supply
Vee vee 0 DC -15    * Op-amp negative supply

* 2. 电阻网络（R1=R2=1k, Rf=2k）
R1 in1 inv 1k       * Input resistor 1
R2 in2 inv 1k       * Input resistor 2
Rf inv out 2k       * Feedback resistor

* 3. 定义理想运放子电路
.subckt opamp inv noninv vcc vee out
* 输入级（高阻抗差分输入）
Rin inv noninv 1e12
* 增益级（开环增益1e6）
Eout out 0 noninv inv 1e6
* 电源连接（可选）
Vps vcc vee DC 0
.ends opamp

* 4. 调用运放
X1 inv 0 vcc vee out opamp

* 5. 仿真指令（DC分析）
.control
dc                  * DC analysis
print v(out)        * Print output voltage
plot v(out)         * Plot output (requires X11)
.endc

* 6. 结束
.end